US07470709B2
Step 4: 2-Chloro-5-{[(4-methoxyphenyl)methyl]amino}pyridine-4-carboxylic acid
To a solution of methyl 5-{(tert-butoxy)-N-[(4-methoxyphenyl)-methyl]carbonylamino}-2-chloropyridine-4-carboxilate (1 equivalent) in MeOH, was added an aqueous solution of NaOH (3 equivalents). A precipitate formed immediately. The reaction was heated until the solution was clear and was then stirred for 1 hour at room temperature. Aqueous citric acid (1 M) was then added causing the product to crash out of solution. The product was then collected to afford the title compound in 77% yield.

reactant | methyl 5-{(tert-butoxy)-N-[(4-methoxyphenyl)-methyl]carbonylamino}-2-chloropyridine-4-carboxilate | 1 equivalent | C(C)(C)(C)ON(C(=O)CC1=CC=C(C=C1)OC)C=1C(=CC(=NC1)Cl)C(=O)OC | C20H23ClN2O5
reactant | NaOH | 3 equivalents | [OH-].[Na+]
reactant | citric acid | 1 M | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | MeOH | CO | CH4O
product | 2-Chloro-5-{[(4-methoxyphenyl)methyl]amino}pyridine-4-carboxylic acid | 77% yield | ClC1=NC=C(C(=C1)C(=O)O)NCC1=CC=C(C=C1)OC | C14H13ClN2O3
